US06599917B1
d) 2-Benzyl-3-ethynylthiophene
201 mg of sodium cyanotrihydroborate was added to a mixture of 85.7 mg of 3-ethynyl-2-(α-hydroxybenzyl)thiophene, 192 mg of zinc iodide and 1.5 ml of 1,2-dichloroethane at room temperature, followed by stirring at the same temperature overnight. 5 ml of diethyl ether was added to the reaction solution, followed by filtering through Celite. After the solvent was removed, the residue was subjected to silica gel column chromatography using 2% ethyl acetate/hexane, to give 45.2 mg of the target compound.

reactant | sodium cyanotrihydroborate | 201 mg | [B-]C#N.[Na+]
reactant | 3-ethynyl-2-(α-hydroxybenzyl)thiophene | 85.7 mg | C(#C)C1=C(SC=C1)C(C1=CC=CC=C1)O | C13H10OS
reactant | 1,2-dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
catalyst | zinc iodide | 192 mg | [I-].[Zn+2].[I-]
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 2-Benzyl-3-ethynylthiophene | 45.2 mg | C(C1=CC=CC=C1)C=1SC=CC1C#C | C13H10S
